US08309721B2
Synthesis of 4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]-2-[(1-hydroxycyclopropan-1-yl)methylamino]benzamide
The process is carried out as in stage 3 of Example 3, but using 165.4 mg of 2-fluoro-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzonitrile, obtained according to stage 2 of Example 3, 165.8 mg of potassium carbonate and 279 mg of 1-(aminomethyl)cyclopropan-1-ol in 1.7 ml of dimethyl sulphoxide, in a microwave for 1 hour and 30 minutes at 115° C. 0.76 ml of a 1M aqueous solution of sodium hydroxide, 0.735 ml of a 30% aqueous solution of hydrogen peroxide and 4 ml of ethanol are then added to the reaction medium. After treatment as in stage 3 of Example 3, and then purification by flash chromatography on silica gel, elution being carried out with a mixture of dichloromethane and methanol (95/5 by volume), 11 mg of 4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]-2-[(1-hydroxycyclopropan-1-yl)methylamino]benzamide are thus obtained in the form of a pale yellow powder, the characteristics of which are as follows:

reactant | 2-fluoro-4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]benzonitrile | 165.4 mg | FC1=C(C#N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C=1C=NC2=CC=CC=C2C1 | C28H16FN3
reactant | potassium carbonate | 165.8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(aminomethyl)cyclopropan-1-ol | 279 mg | NCC1(CC1)O | C4H9NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | dimethyl sulphoxide | 1.7 ml | CS(=O)C | C2H6OS
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 4-[4-(quinolin-3-yl)-9H-carbazol-9-yl]-2-[(1-hydroxycyclopropan-1-yl)methylamino]benzamide | N1=CC(=CC2=CC=CC=C12)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C(=O)N)C=C1)NCC1(CC1)O | C32H26N4O2
